US05034320
In J. Am. Chem. Soc./98:22/Oct. 27, 1976, Langlois et al describe a process in which the monomers catharanthine and vindoline are coupled to form AVLB. The coupling is performed using a peracid to generate first the N-oxide of catharanthine, followed by Polonovski-type fragmentation of the N-oxide initiated with addition of trifluoroacetic anhydride to form a dimer. A reducing agent such as sodium borohydride is then added to generate AVLB which can be isolated e.g. chromatographically.

reactant | catharanthine | CCC1=C[C@H]2C[C@]3([C@@H]1N(C2)CCC4=C3NC5=CC=CC=C45)C(=O)OC | C21H24N2O2
reactant | vindoline | CCC12C=CCN3[C@@H]1[C@@]4(CC3)C=5C=CC(=CC5N([C@H]4[C@]([C@@H]2OC(=O)C)(C(=O)OC)O)C)OC | C25H32N2O6
product | AVLB | CCC1=C[C@@H]2C[C@@](C3=C(CCN(C2)C1)C4=CC=CC=C4N3)(C5=C(C=C6C(=C5)[C@]78CCN9[C@H]7[C@@](C=CC9)([C@H]([C@@]([C@@H]8N6C)(C(=O)OC)O)OC(=O)C)CC)OC)C(=O)OC | C46H56N4O8
